US07652143B2
t-Butyl 2-(4-(4-methoxyphenyl)-2,2-dioxo-(1,2,3) oxathiazolidin-3-yl)-3-methylbutyrate (0.30 g; 0.778 mmol) was introduced into acetonitrile (5 ml). Benzylamine (0.10 g; 0.93 mmol) and Cs2CO3 (0.50 g; 1.55 mmol) were added thereto, and the reaction mixture was stirred at 55° C. for 5 h. It was then filtered through kieselguhr, and the residue was washed with a solution of methanol (3%) in acetonitrile. The filtrate was concentrated in a rotary evaporator, and the residue was taken up in dioxane (10 ml) and concentrated aqueous H2SO4 (10 ml). The mixture was stirred at 70° C. for 2 h and then evaporated to dryness in a rotary evaporator. The residue was taken up in toluene, and 1N NaOH (10 ml) was added. After the reaction mixture had been cooled to 0° C., phosgene (20% in toluene; 0.58 ml; 1.16 mmol) was slowly added dropwise. The mixture was then stirred at 0° C. for 2 h. The reaction mixture was adjusted to pH 1-2 with dilute aqueous HCl, mixed with EtOAc and extracted with EtOAc (2×). The combined organic phases were dried over MgSO4, and the solvent was removed in a rotary evaporator. Purification by column chromatography (CH2Cl2/MeOH, gradient) resulted in 2-(3-benzyl-5-(4-methoxyphenyl)-2-oxoimidazolidin-1-yl)-3-methylbutyric acid (0.15 g; 0.39 mmol). MS: 383.15 (M+H); Rt: 1.52 min (method: gradient 0 min 96% H2O (0.05% TFA) 2.0 min 95% acetonitrile, 95% acetonitrile to 2.4 min, 4% acetonitrile 2.45 min; flow rate 1 ml/min; column 0.4 μL (YMC J'sphere ODS H80 20X2 1.4μ); 30° C.)

reactant | t-Butyl 2-(4-(4-methoxyphenyl)-2,2-dioxo-(1,2,3) oxathiazolidin-3-yl)-3-methylbutyrate | 0.778 mmol, 0.30 g | COC1=CC=C(C=C1)C1N(S(OC1)(=O)=O)C(C(=O)OC(C)(C)C)C(C)C | C18H27NO6S
reactant | Benzylamine | 0.93 mmol, 0.10 g | C(C1=CC=CC=C1)N | C7H9N
reactant | Cs2CO3 | 1.55 mmol, 0.50 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | phosgene | 1.16 mmol, 0.58 ml | C(=O)(Cl)Cl | CCl2O
reactant | HCl | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 2-(3-benzyl-5-(4-methoxyphenyl)-2-oxoimidazolidin-1-yl)-3-methylbutyric acid | 0.39 mmol, 0.15 g | C(C1=CC=CC=C1)N1C(N(C(C1)C1=CC=C(C=C1)OC)C(C(=O)O)C(C)C)=O | C22H26N2O4
